### PR TITLE
HardyLittlewood: remove countable assumption from Measurable.maximalFunction

### PR DESCRIPTION
**Pull request by lua-vr**

### CODE REVIEW

File: Carleson/ToMathlib/HardyLittlewood.lean [hunk 1]
```diff
@@ -149,13 +150,16 @@ lemma MB_def : MB μ 𝓑 c r f x = (⨆ i ∈ 𝓑, (ball (c i) (r i)).indicato
...
 lemma maximalFunction_eq_MB
-    {μ : Measure X} {𝓑 : Set ι} {c : ι → X} {r : ι → ℝ} {p : ℝ} {u : X → E} {x : X} (hp : 0 ≤ p) :
+    {μ : Measure X} {𝓑 : Set ι} {c : ι → X} {r : ι → ℝ} {p : ℝ} {u : X → E} {x : X} (hp : 0 < p) :
     maximalFunction μ 𝓑 c r p u x = (MB μ 𝓑 c r (‖u ·‖ ^ p) x) ^ p⁻¹ := by
-  rw [maximalFunction, MB_def]
-  congr! 8
-  rw [enorm_eq_nnnorm, enorm_eq_nnnorm, ← ENNReal.coe_rpow_of_nonneg _ hp, ENNReal.coe_inj,
-    Real.nnnorm_rpow_of_nonneg (by simp), nnnorm_norm]
+  simp [maximalFunction, indicator_rpow (inv_pos_of_pos hp), Pi.pow_apply, MB_def,
+    iSup_rpow (inv_pos_of_pos hp), enorm_eq_nnnorm, Real.nnnorm_rpow_of_nonneg,
```
Comment (grunweg) [inline Carleson/ToMathlib/HardyLittlewood.lean]: I wonder: can you use [Real.enorm_rpow_of_nonneg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/NNReal.html#Real.enorm_rpow_of_nonneg) instead of converting to `nnnorm`s? (I haven't checked myself; but when that works, it will be nicer :-))

Comment (lua-vr) [reply Carleson/ToMathlib/HardyLittlewood.lean]: @grunweg I could replace it by

```lean
lemma maximalFunction_eq_MB
    {μ : Measure X} {𝓑 : Set ι} {c : ι → X} {r : ι → ℝ} {p : ℝ} {u : X → E} {x : X} (hp : 0 < p) :
    maximalFunction μ 𝓑 c r p u x = (MB μ 𝓑 c r (‖u ·‖ ^ p) x) ^ p⁻¹ := by
  simp only [maximalFunction, indicator_rpow (inv_pos_of_pos hp), Pi.pow_apply, MB_def,
    iSup_rpow (inv_pos_of_pos hp)]
  congr! 8
  rw [Real.enorm_rpow_of_nonneg (by positivity) hp.le, enorm_norm]
```
— is that better?

Comment (lua-vr) [reply Carleson/ToMathlib/HardyLittlewood.lean]: (unfortunately, just putting it inside the `simp` set does not work)

**Comment by fpvandoorn** [comment]
Thanks
